US05006570
Step VII - Preparation of 5-Bromo-6-chlorosulphonylchroman-8- carboxylic acid-Intermediate (S)
817 ml of chlorosulphonic acid were introduced into a 2-liter round-bottomed flask and 210 g of 5-bromochroman-8-carboxylic acid were then added in small amounts. The temperature rose to 40° C.

reactant | chlorosulphonic acid | 817 ml | ClS(=O)(=O)O | ClHO3S
reactant | 5-bromochroman-8-carboxylic acid | 210 g | BrC1=C2CCCOC2=C(C=C1)C(=O)O | C10H9BrO3
product | 5-Bromo-6-chlorosulphonylchroman-8- carboxylic acid | BrC1=C2CCCOC2=C(C=C1S(=O)(=O)Cl)C(=O)O | C10H8BrClO5S
